US06716863B2
(vi) 1-[4-(4-benzyloxyphenyl)butyl]-1H-1,2,3-triazole
Benzyl 4-(4-iodobutyl)phenyl ether (1.1 g), 1H-1,2,3-triazole (0.31 g), and potassium carbonate (0.622 g) were suspended in DMF (7.5 ml), followed by stirring at 70° C. for 26.5 hours. After cooling, the reaction mixture was extracted with ethyl acetate and washed with water and saturated saline. Under reduced pressure, the solvent was distilled off; the residue was subjected to silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→2:3) to yield the titled compound (0.391 g).

reactant | Benzyl 4-(4-iodobutyl)phenyl ether | 1.1 g | ICCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H19IO
reactant | 1H-1,2,3-triazole | 0.31 g | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 0.622 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-benzyloxyphenyl)butyl]-1H-1,2,3-triazole | 0.391 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCN1N=NC=C1 | C19H21N3O
